US06107329
5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-oxo-2-piperazin-1-yl-ethyl)-amide
Trifluoroacetic acid (4 ml) was added to 4-{2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionyl}-piperazine-1-carboxylic acid tert-butyl ester (0.6 mmol) at 0° C. and the resulting solution was stirred for 0.3 hours and concentrated. The residue was partitioned between ethyl acetate and 2N NaOH, the organic layer separated and washed with brine, dried over Na2SO4, concentrated and the resulting solid triturated with ether: Yield 189 mg, 77%; HPLC (60/40) 2.63 minutes (99%);

reactant | Trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-{2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.6 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C27H31ClN4O4
product | 5-Chloro-1H-indole-2-carboxylic acid (1-benzyl-2-oxo-2-piperazin-1-yl-ethyl)-amide | C(C1=CC=CC=C1)C(C(N1CCNCC1)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C22H23ClN4O2
